US05808111
Methyl 2,3,4,-tri-O-acetylglucopyranuronosyl bromide (7.94 g, 20 mmol) was dissolved in 250 ml of dimethylformamide and 2.6 g, that is 40 mmol of sodium azide was added. The mixture was stirred at room temperature for 24 hours and then poured into 500 ml of H2O. The organic soluble material was extracted three times with 150 ml ethyl acetate. The combined ethyl acetate extracts were washed twice with 100 ml H2O, brine, dried over MgSO4, and concentrated to dryness. The residue was recrystallized from ethanol to yield 5.46 g (76%) of methyl 2,3,4,-tri-O-acetylglucopyranuronosyl azide. Methyl 2,3,4,-tri-O-acetylglucopyranuronosyl azide had the melting point of 152°-154°.

reactant | Methyl 2,3,4,-tri-O-acetylglucopyranuronosyl bromide | 20 mmol, 7.94 g | CC1([C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)O)Br | C13H17BrO9
reactant | sodium azide | 40 mmol | [N-]=[N+]=[N-].[Na+]
reactant | H2O | 500 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | methyl 2,3,4,-tri-O-acetylglucopyranuronosyl azide | 5.46 g, 76% | CC1([C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)O)N=[N+]=[N-] | C13H17N3O9
